US05278158
To a suspension of 948 mg 2-(7-amino-3,4-dihydro-2,2-dimethyl-6-nitro-2H-1,4-benzoxazin-4-yl)pyridine N-oxide in 180 ml ethanol, was added a catalytic amount of 10% palladium-carbon powder, and catalytic hydrogenation was performed at ordinary temperature and pressure. The catalyst was filtered off from the reaction mixture, and the solvent was distilled off from the filtrate, thus giving crude 6,7-diamino-3,4-dihydro-2,2-dimethyl-4-(2-pyridyl)-2H-1,4-benzoxazine. This product was immediately used for the succeeding reaction.

reactant | 2-(7-amino-3,4-dihydro-2,2-dimethyl-6-nitro-2H-1,4-benzoxazin-4-yl)pyridine N-oxide | 948 mg | NC1=CC2=C(N(CC(O2)(C)C)C2=[N+](C=CC=C2)[O-])C=C1[N+](=O)[O-] | C15H16N4O4
solvent | ethanol | 180 ml | C(C)O | C2H6O
catalyst | palladium-carbon | [C].[Pd]
product | 6,7-diamino-3,4-dihydro-2,2-dimethyl-4-(2-pyridyl)-2H-1,4-benzoxazine | NC=1C(=CC2=C(N(CC(O2)(C)C)C2=NC=CC=C2)C1)N | C15H18N4O
